US08703922B2
Under a nitrogen atmosphere, 55 mL (0.39 mol) of triethylamine, 59.9 g (0.314 mol) of p-toluenesulfonyl chloride, and 2.5 g (26 mmol) of trimethylamine hydrochloride were added to a solution of 85.0 g (0.262 mol) of 5,9,13,17-tetramethyloctadec-4-en-1-ol in dry methylene chloride (0.26 L) at 0° C., sequentially. After being stirred for 1 hour, 9.9 mL (79 mmol) of N,N-dimethyl-1,3-propanediamine was added to the reaction solution at 0° C. After being stirred for 1 hour, the mixture was diluted with a mixed solvent of hexane/ethyl acetate. The resulting solution was washed with water, 3M hydrochloric acid (twice), saturated sodium bicarbonate aqueous solution, and saturated brine, successively, and dried over magnesium sulfate. After filtration, the filtrate was concentrated, and the resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=90:10) to obtain 116 g of (5,9,13,17-tetramethyloctadec-4-enyl)tosylate (93% yield).

reactant | triethylamine | 0.39 mol, 55 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 0.314 mol, 59.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | trimethylamine hydrochloride | 26 mmol, 2.5 g | Cl.CN(C)C
reactant | 5,9,13,17-tetramethyloctadec-4-en-1-ol | 0.262 mol, 85.0 g | CC(=CCCCO)CCCC(CCCC(CCCC(C)C)C)C | C22H44O
reactant | N,N-dimethyl-1,3-propanediamine | 79 mmol, 9.9 mL | CN(CCCN)C | C5H14N2
solvent | methylene chloride | 0.26 L | C(Cl)Cl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (5,9,13,17-tetramethyloctadec-4-enyl)tosylate | 116 g, 93% yield | CC(=CCCCOS(=O)(=O)C1=CC=C(C)C=C1)CCCC(CCCC(CCCC(C)C)C)C | C29H50O3S
